US04164583
1.6 g of sodium borohydride in 20 ml of ethanol are added at 0°-5° to a solution of 10 g of 6-chloro-3a,4,9,9a-tetrahydro-2-methylbenz[f]isoindolin-4-one in 100 ml of ethanol, stirred at room temperature for a further hour, water is added and the mixture evaporated. The residue is taken up in 10% tartaric acid, the aqueous phase extracted with ether, mixed with 2 N caustic soda solution and extracted with ethyl acetate. The ethyl acetate phase is dried over sodium sulphate and evaporated. The residue is crystallised from methylene chloride/pentane to yield 6-chloro-3a,4,9,9a-tetrahydro-2-methylbenz[f]isoindolin-4-ol. M.P. 178°-182°.

reactant | sodium borohydride | 1.6 g | [BH4-].[Na+]
reactant | 6-chloro-3a,4,9,9a-tetrahydro-2-methylbenz[f]isoindolin-4-one | 10 g | ClC1=CC2=C(CC3CN(CC3C2=O)C)C=C1 | C13H14ClNO
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-chloro-3a,4,9,9a-tetrahydro-2-methylbenz[f]isoindolin-4-ol | ClC1=CC2=C(CC3CN(CC3C2O)C)C=C1 | C13H16ClNO
